*$
* INA828
*****************************************************************************
* (C) Copyright 2019 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Online Design Tools, Texas Instruments Inc.
* Part: INA828
* Date: 13FEB2019
* Model Type: Generic (suitable for all analysis types)
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: SBOS792A –AUGUST 2017–REVISED JANUARY 2018 
* Created with Green-Williams-Lis Op Amp Macro-model Architecture
*
* Model Version: Final 1.3
*
*****************************************************************************
*
* Final 1.3
* Updated with unique subckt name, Vos drift and edits in claw block
*
* Final 1.2
* Release to Web.
*
*****************************************************************************
* Model Usage Notes:
* 1. The following parameters are modeled: 
* 		OPEN-LOOP GAIN AND PHASE VS. FREQUENCY  WITH RL, CL EFFECTS (Aol)
* 		UNITY GAIN BANDWIDTH (GBW)
* 		INPUT COMMON-MODE REJECTION RATIO VS. FREQUENCY (CMRR)
* 		POWER SUPPLY REJECTION RATIO VS. FREQUENCY (PSRR)
* 		DIFFERENTIAL INPUT IMPEDANCE (Zid)
* 		COMMON-MODE INPUT IMPEDANCE (Zic)
* 		OPEN-LOOP OUTPUT IMPEDANCE VS. FREQUENCY (Zo)
* 		OUTPUT CURRENT THROUGH THE SUPPLY (Iout)
* 		INPUT VOLTAGE NOISE DENSITY VS. FREQUENCY (en)
* 		INPUT CURRENT NOISE DENSITY VS. FREQUENCY (in)
* 		OUTPUT VOLTAGE SWING vs. OUTPUT CURRENT (Vo)
* 		SHORT-CIRCUIT OUTPUT CURRENT (Isc)
* 		QUIESCENT CURRENT (Iq)
* 		SETTLING TIME VS. CAPACITIVE LOAD (ts)
* 		SLEW RATE (SR)
* 		SMALL SIGNAL OVERSHOOT VS. CAPACITIVE LOAD
* 		LARGE SIGNAL RESPONSE
* 		OVERLOAD RECOVERY TIME (tor)
* 		INPUT BIAS CURRENT (Ib)
* 		INPUT OFFSET CURRENT (Ios)
* 		INPUT OFFSET VOLTAGE (Vos)
* 		INPUT OFFSET VOLTAGE VS. TEMPERATURE (VOS DRIFT)
* 		INPUT COMMON-MODE VOLTAGE RANGE (Vcm)
* 		INPUT OFFSET VOLTAGE VS. INPUT COMMON-MODE VOLTAGE (Vos vs. Vcm)
* 		INPUT/OUTPUT ESD CELLS (ESDin, ESDout)
******************************************************
.subckt INA828 IN+ IN- VCC VEE OUT REF RG+ RG-
******************************************************
* MODEL DEFINITIONS:
.model ESD_SW VSWITCH(Ron=50 Roff=1e12 Von=500e-3 Voff=100e-3)
.model OL_SW VSWITCH(Ron=1e-3 Roff=1e9 Von=900e-3 Voff=800e-3)
.model OR_SW VSWITCH(Ron=10e-3 Roff=1e9 Von=10e-3 Voff=0)
.model R_NOISELESS RES(T_ABS=-273.15)
******************************************************
RF1 NODE1 RG- R_NOISELESS 25e3
RF2 NODE2 RG+ R_NOISELESS 25e3
VB VCC_B INP_A2 1
R1 INN_A3 NODE1 R_NOISELESS 40e3
R2 OUT_A3 INN_A3 R_NOISELESS 40e3
R3 INP_A3 NODE2 R_NOISELESS 40e3
R4 REF INP_A3 R_NOISELESS 40000.8
ISINK1 RG- VEE_B 24e-6
ISINK2 RG+ VEE_B 24e-6
GM1 INN_A1 RG- INn RG- 1.33e-3
GM2 INN_A2 RG+ INp RG+ 1.33e-3
RB1 VCC_B INN_A1 R_NOISELESS 41.67e3
RB2 VCC_B INN_A2 R_NOISELESS 41.67e3
R5 N134 0 R_NOISELESS 1e9 
C3 N134 0 1
R6 VCC_B N133 R_NOISELESS 1e-3 
C4 N133 0 1e-15
C5 N135 0 1e-15
R7 N135 VEE_B R_NOISELESS 1e-3 
I_Q VCC VEE 600e-6
R8 N133 N134 R_NOISELESS 1e6 
R9 N134 N135 R_NOISELESS 1e6 
E3 N132 0 N134 0 1
G1 0 VCC_B VCC 0 1
G2 0 VEE_B VEE 0 1
R10 VCC_B 0 R_NOISELESS 1 
R11 VEE_B 0 R_NOISELESS 1 
RMID N132 MID R_NOISELESS 1e-2
XV_OSp N005 N004 VOS_DRIFT_IN_INA828
C_DIFF N003 N010 1e-12
C_CMn N010 MID 10e-12
C_CMp MID N003 10e-12
I_B N004 MID 0.15e-9
I_OS N011 MID 1e-15
R16 IN+ N003 R_NOISELESS 10e-3 
R17 IN- N010 R_NOISELESS 10e-3 
R18 MID N003 R_NOISELESS 1e12 
R19 N010 MID R_NOISELESS 1e12 
Xe_np N003 N004 VNSE_IN_INA828
Xi_nn N011 MID FEMT_INA828
Xi_np N004 MID FEMT_INA828
V_OSn N012 N011 0
Xe_nn N010 N011 VNSE_IN_INA828
R12 N005 N006 R_NOISELESS 1e-3 
R13 N012 N013 R_NOISELESS 1e-3 
R14 MID N002 R_NOISELESS 1e9 
VCM_MINp N007 VEE_B 2
R15 N007 MID R_NOISELESS 1e9 
VCM_MAXp N002 VCC_B -2
XVCM_CLAMPp N006 MID N001 MID N002 N007 VCCS_EXT_LIM_INA828
R20 N001 MID R_NOISELESS 1 
C6 INp MID 1e-15
R21 N001 INp R_NOISELESS 1e-3 
R22 MID N009 R_NOISELESS 1e9 
VCM_MINn N014 VEE_B 2
R23 N014 MID R_NOISELESS 1e9 
VCM_MAXn N009 VCC_B -2
XVCM_CLAMPn N013 MID N008 MID N009 N014 VCCS_EXT_LIM_INA828
R24 N008 MID R_NOISELESS 1 
C7 INn MID 1e-15
R25 N008 INn R_NOISELESS 1e-3 
V1 N063 NODE1 0
R26 MID N051 R_NOISELESS 1e9 
XIQp1 VIMON1 MID VCC MID VCCS_LIM_IQ_INA828
XIQn1 MID VIMON1 MID VEE VCCS_LIM_IQ_INA828
R29 VIMON1 N051 R_NOISELESS 100 
C9 VIMON1 MID 1e-9
H1 N051 MID V1 1e3
XVCCS_LIM_1_INA828 INP_A2 INN_A1 MID N067 VCCS_LIM_1_INA828
XVCCS_LIM_2 N067 MID MID N068 VCCS_LIM_2_IN_INA828
R31 N067 MID R_NOISELESS 1e6 
R32 N068 MID R_NOISELESS 1e6 
C10 N068 MID 1.45e-6
R40 N069 MID R_NOISELESS 1e6 
C13 N069 MID 3.54e-14
G5 MID N069 N068 MID 1e-6
R41 N070 MID R_NOISELESS 1e6 
C14 N070 MID 1.59e-14
G6 MID N070 N069 MID 1e-6
R42 N071 MID R_NOISELESS 1e6 
C15 N071 MID 1.59e-14
G7 MID N071 N070 MID 1e-6
V2 N123 NODE2 0
R43 MID N111 R_NOISELESS 1e9 
XIQp2 VIMON2 MID VCC MID VCCS_LIM_IQ_INA828
XIQn2 MID VIMON2 MID VEE VCCS_LIM_IQ_INA828
R46 VIMON2 N111 R_NOISELESS 100 
C17 VIMON2 MID 1e-9
H2 N111 MID V2 1e3
XVCCS_LIM_3 INP_A2 INN_A2 MID N127 VCCS_LIM_1_INA828
XVCCS_LIM_4 N127 MID MID N128 VCCS_LIM_2_IN_INA828
R48 N127 MID R_NOISELESS 1e6 
R49 N128 MID R_NOISELESS 1e6 
C18 N128 MID 1.45e-6
R57 N129 MID R_NOISELESS 1e6 
C21 N129 MID 3.54e-14
G10 MID N129 N128 MID 1e-6
R58 N130 MID R_NOISELESS 1e6 
C22 N130 MID 1.59e-14
G11 MID N130 N129 MID 1e-6
R59 N131 MID R_NOISELESS 1e6 
C23 N131 MID 1.59e-14
G12 MID N131 N130 MID 1e-6
R60 N049 N074 R_NOISELESS 1e-3 
R61 N080 N081 R_NOISELESS 1e-3 
G13 N049 N050 N019 N029 1e-3
R62 MID N078 R_NOISELESS 1e9 
VCM_MIN1 N079 VEE_B 2
R63 N079 MID R_NOISELESS 1e9 
VCM_MAX1 N078 VCC_B -2
XVCM_CLAMP3 N050 MID N075 MID N078 N079 VCCS_EXT_LIM_INA828
R64 N075 MID R_NOISELESS 1 
C24 N076 MID 1e-15
R65 N075 N076 R_NOISELESS 1e-3 
V3 N101 OUT_A3 0
R66 MID N082 R_NOISELESS 1e9 
R67 MID N083 R_NOISELESS 1e9 
XIQp3 VIMON3 MID VCC MID VCCS_LIM_IQ_INA828
XIQn3 MID VIMON3 MID VEE VCCS_LIM_IQ_INA828
R68 VCC_B N022 R_NOISELESS 1e3 
R69 N037 VEE_B R_NOISELESS 1e3 
XCLAWp3 VIMON3 MID N022 VCC_B VCCS_LIM_CLAWp_OUT_INA828
XCLAWn3 MID VIMON3 VEE_B N037 VCCS_LIM_CLAWn_OUT_INA828
R70 VEE_CLP3 MID R_NOISELESS 1e3 
R71 MID VCC_CLP3 R_NOISELESS 1e3 
R72 N023 N022 R_NOISELESS 1e-3 
R73 N038 N037 R_NOISELESS 1e-3 
C25 MID N023 1e-15
C26 N038 MID 1e-15
R74 VOUT_S3 N083 R_NOISELESS 100 
C27 VOUT_S3 MID 1e-9
G14 MID VCC_CLP3 N023 MID 1e-3
G15 MID VEE_CLP3 N038 MID 1e-3
XCL_AMP3 N020 N047 VIMON3 MID N026 N035 CLAMP_AMP_LO_INA828
V_ISCp3 N020 MID 18
V_ISCn3 N047 MID -18
XOL_SENSE3 MID N107 N103 N109 OL_SENSE_OUT_INA828
R75 N047 MID R_NOISELESS 1e9 
R76 N035 MID R_NOISELESS 1 
C28 N036 MID 1e-15
R77 MID N026 R_NOISELESS 1 
R78 MID N020 R_NOISELESS 1e9 
C29 MID N027 1e-15
XCLAW_AMP3 VCC_CLP3 VEE_CLP3 VOUT_S3 MID N024 N033 CLAMP_AMP_LO_INA828
R79 VEE_CLP3 MID R_NOISELESS 1e9 
R80 N033 MID R_NOISELESS 1 
C30 N034 MID 1e-15
R81 MID N024 R_NOISELESS 1 
R82 MID VCC_CLP3 R_NOISELESS 1e9 
C31 MID N025 1e-15
XCL_SRC3 N027 N036 CL_CLAMP3 MID VCCS_LIM_4_OUT_INA828
XCLAW_SRC3 N025 N034 CLAW_CLAMP3 MID VCCS_LIM_3_OUT_INA828
R83 N024 N025 R_NOISELESS 1e-3 
R84 N034 N033 R_NOISELESS 1e-3 
R85 N026 N027 R_NOISELESS 1e-3 
R86 N036 N035 R_NOISELESS 1e-3 
R87 N107 MID R_NOISELESS 1 
R88 N107 SW_OL3 R_NOISELESS 100 
C32 SW_OL3 MID 1e-12
R89 VIMON3 N082 R_NOISELESS 100 
C33 VIMON3 MID 1e-9
C_CMn3 N081 MID 1e-12
C_CMp3 MID N072 1e-12
R90 INP_A3 N072 R_NOISELESS 10e-3 
R91 INN_A3 N081 R_NOISELESS 10e-3 
R92 N039 MID R_NOISELESS 1 
R93 N048 MID R_NOISELESS 1e9 
R94 MID N031 R_NOISELESS 1 
R95 MID N021 R_NOISELESS 1e9 
XGR_AMP3 N021 N048 N030 MID N031 N039 CLAMP_AMP_HI_INA828
XGR_SRC3 N032 N040 CLAMP3 MID VCCS_LIM_GR_OUT_INA828
C34 MID N032 1e-15
C35 N040 MID 1e-15
V_GRn3 N048 MID -54
V_GRp3 N021 MID 54
R96 N031 N032 R_NOISELESS 1e-3 
R97 N040 N039 R_NOISELESS 1e-3 
R98 VSENSE3 N030 R_NOISELESS 1e-3 
C36 MID N030 1e-15
R99 MID VSENSE3 R_NOISELESS 1e3 
G16 MID CLAW_CLAMP3 N090 MID 1e-3
R100 MID CLAW_CLAMP3 R_NOISELESS 1e3 
G17 MID CL_CLAMP3 CLAW_CLAMP3 MID 1e-3
R101 MID CL_CLAMP3 R_NOISELESS 1e3 
R102 N110 VCLP3 R_NOISELESS 100 
C37 MID VCLP3 1e-9
E6 N110 MID CL_CLAMP3 MID 1
E7 N083 MID OUT_A3 MID 1
H3 N082 MID V3 1e3
S1 N087 N086 SW_OL3 MID OL_SW
R103 MID N072 R_NOISELESS 1e12 
R104 N081 MID R_NOISELESS 1e12 
R105 N050 N049 R_NOISELESS 1e3 
G18 MID VSENSE3 CLAMP3 MID 1e-3
V_ORp3 N046 VCLP3 0.45
V_ORn3 N041 VCLP3 -0.65
V4 N043 N042 0
V5 N044 N045 0
H4 N102 MID V4 -1
H5 N108 MID V5 1
S2 N044 CLAMP3 CLAMP3 N044 OR_SW
S3 CLAMP3 N043 N043 CLAMP3 OR_SW
XVCCS_LIM_5 N076 N080 MID N077 VCCS_LIM_1_INA828
XVCCS_LIM_6 N077 MID MID CLAMP3 VCCS_LIM_2_OUT_INA828
R106 N077 MID R_NOISELESS 1e6 
R107 CLAMP3 MID R_NOISELESS 1e6 
C38 CLAMP3 MID 650e-9
G19 MID N042 N041 MID 1
R108 N042 MID R_NOISELESS 1 
G20 MID N045 N046 MID 1
R109 N045 MID R_NOISELESS 1 
R110 N103 N102 R_NOISELESS 100
R111 N108 N109 R_NOISELESS 100
C39 N103 MID 1e-12
C40 N109 MID 1e-12
XVCCS_LIM_ZO3 N098 MID MID N100 VCCS_LIM_ZO_OUT_INA828
Rx3 N101 N100 R_NOISELESS 1e5 
Rdummy3 N101 MID R_NOISELESS 1e4 
G21 MID N086 CL_CLAMP3 N101 88.496
Rdc3 N086 MID R_NOISELESS 1 
R112 N086 N087 R_NOISELESS 1e8 
R113 N087 MID R_NOISELESS 1.705e7 
G22 MID N091 N087 MID 6.866
C42 N087 N086 4.75e-9
R114 N091 MID R_NOISELESS 1 
R115 N091 N092 R_NOISELESS 1.47e8 
R116 N092 N104 R_NOISELESS 1e8 
C43 MID N104 6.77e-15
Gb1 MID N093 N092 MID 1
R117 N097 N098 R_NOISELESS 1e8 
R118 N098 MID R_NOISELESS 8500.72 
C44 N098 N097 1.872e-16
R119 N100 MID R_NOISELESS 1
R120 N093 MID R_NOISELESS 1 
R121 N093 N094 R_NOISELESS 3e8 
R122 N094 N105 R_NOISELESS 1e8 
C45 MID N105 7.96e-17
Gc1 MID N095 N094 MID 1
R123 N095 MID R_NOISELESS 1 
R124 N095 N096 R_NOISELESS 3e8 
R125 N096 N106 R_NOISELESS 1e8 
C46 MID N106 7.96e-17
Gc2 MID N097 N096 MID 1
R126 N097 MID R_NOISELESS 1 
G23 MID N084 VSENSE3 MID 1
R127 N084 N085 R_NOISELESS 7.31e7 
R128 N085 N099 R_NOISELESS 1e8 
C47 MID N099 3.537e-16
Gb2 MID N088 N085 MID 1
R129 N084 MID R_NOISELESS 1
R130 N088 MID R_NOISELESS 1 
R131 N089 MID R_NOISELESS 1e6 
C48 N089 MID 4.97e-15
G24 MID N089 N088 MID 1e-6
R132 N090 MID R_NOISELESS 1e6 
C49 N090 MID 1.59e-15
G25 MID N090 N089 MID 1e-6
C50 N017 N018 2.122e-8
R133 N017 MID R_NOISELESS 30.71 
R134 N017 N018 R_NOISELESS 1e4 
Rsrc1 N018 MID R_NOISELESS 1
XV_OS3 N074 N073 VOS_DRIFT_OUT_INA828
G26 MID N016 N017 MID 1
G27 MID N019 N015 MID 326.667
G28 MID N018 VCC_B MID 163.35e-6 
Rsrc2 N016 MID R_NOISELESS 1 
C51 N015 N016 2.122e-8
R135 N015 N016 R_NOISELESS 1e4 
R136 N015 MID R_NOISELESS 30.71 
Rsrc3 N019 MID R_NOISELESS 1 
C52 N029 N028 1.326e-9
R137 N029 MID R_NOISELESS 1000.01 
R138 N029 N028 R_NOISELESS 1e8 
G29 MID N028 VEE_B MID 0.05
Rsrc4 N028 MID R_NOISELESS 1 
C_DIFF3 N072 N081 1e-12
Xe_n3 N072 N073 VNSE_OUT_INA828
S4 VCC N003 N003 VCC ESD_SW
S5 VCC N010 N010 VCC ESD_SW
S6 N003 VEE VEE N003 ESD_SW
S7 N010 VEE VEE N010 ESD_SW
S8 VCC OUT OUT VCC ESD_SW
S9 OUT VEE VEE OUT ESD_SW
S10 VCC REF REF VCC ESD_SW
S11 REF VEE VEE REF ESD_SW
S12 VCC RG- RG- VCC ESD_SW
S13 RG- VEE VEE RG- ESD_SW
S14 VCC RG+ RG+ VCC ESD_SW
S15 RG+ VEE VEE RG+ ESD_SW
Rx1 N063 N062 R_NOISELESS 1e5 
Rdummy1 N063 MID R_NOISELESS 1e4 
G4 MID N052 N071 N063 88.496
Rdc1 N052 MID R_NOISELESS 1 
R39 N052 N053 R_NOISELESS 1e8 
R139 N053 MID R_NOISELESS 5.882e6 
G30 MID N054 N053 MID 18
C1 N053 N052 1.592e-8
R140 N054 MID R_NOISELESS 1
R141 N054 N055 R_NOISELESS 6.273e8 
R142 N055 N064 R_NOISELESS 1e8 
C2 MID N064 3.316e-15
Gb3 MID N056 N055 MID 1
R143 N060 N061 R_NOISELESS 1e8 
R144 N061 MID R_NOISELESS 11001.2 
G31 MID N062 N061 MID 9090.91
C41 N061 N060 1.447e-16
R145 N062 MID R_NOISELESS 1
R146 N056 MID R_NOISELESS 1 
R147 N056 N057 R_NOISELESS 2.713e8 
R148 N057 N065 R_NOISELESS 1e8 
C53 MID N065 2.122e-16
Gc3 MID N058 N057 MID 1
R149 N058 MID R_NOISELESS 1 
R150 N058 N059 R_NOISELESS 2.713e8 
R151 N059 N066 R_NOISELESS 1e8 
C54 MID N066 2.122e-16
Gc4 MID N060 N059 MID 1
R152 N060 MID R_NOISELESS 1 
C60 INN_A1 NODE1 3.5e-12
C61 INN_A2 NODE2 3.5e-12
Rx2 N123 N122 R_NOISELESS 1e5 
Rdummy2 N123 MID R_NOISELESS 1e4 
G9 MID N112 N131 N123 88.496
Rdc2 N112 MID R_NOISELESS 1 
R56 N112 N113 R_NOISELESS 1e8 
R153 N113 MID R_NOISELESS 5.882e6 
G32 MID N114 N113 MID 18
C55 N113 N112 1.592e-8
R154 N114 MID R_NOISELESS 1
R155 N114 N115 R_NOISELESS 6.273e8 
R156 N115 N124 R_NOISELESS 1e8 
C56 MID N124 3.316e-15
Gb4 MID N116 N115 MID 1
R157 N120 N121 R_NOISELESS 1e8 
R158 N121 MID R_NOISELESS 11001.2 
G33 MID N122 N121 MID 9090.91
C57 N121 N120 1.447e-16
R159 N122 MID R_NOISELESS 1
R160 N116 MID R_NOISELESS 1 
R161 N116 N117 R_NOISELESS 2.713e8 
R162 N117 N125 R_NOISELESS 1e8 
C58 MID N125 2.122e-16
Gc5 MID N118 N117 MID 1
R163 N118 MID R_NOISELESS 1 
R164 N118 N119 R_NOISELESS 2.713e8 
R165 N119 N126 R_NOISELESS 1e8 
C59 MID N126 2.122e-16
Gc6 MID N120 N119 MID 1
R166 N120 MID R_NOISELESS 1 
R168 OUT OUT_A3 R_NOISELESS 1e-2
C64 OUT_A3 INN_A3 7.5e-14
C65 REF INP_A3 1e-15
.ends INA828
*
.SUBCKT VOS_DRIFT_IN_INA828 VOS+ VOS-
.PARAM DC = 20E-6
.PARAM POL = 1
.PARAM DRIFT = 0.5E-06
E1 VOS+ VOS- VALUE={DC+POL*DRIFT*(TEMP-27)}
.ENDS
*
.SUBCKT VOS_DRIFT_OUT_INA828 VOS+ VOS-
.PARAM DC = 10.09E-6
.PARAM POL = 1
.PARAM DRIFT = 2.5E-06
E1 VOS+ VOS- VALUE={DC+POL*DRIFT*(TEMP-27)}
.ENDS
*
.subckt FEMT_INA828 1 2
.param FLWF=1
.param NLFF=250
.param NVRF=175
.param GLFF={PWR(FLWF,0.25)*NLFF/1164}
.param RNVF={1.184*PWR(NVRF,2)}
.model DVNF D KF={PWR(FLWF,0.5)/1E11} IS=1.0E-16
I1 0 7 10e-3
I2 0 8 10e-3
D1 7 0 DVNF
D2 8 0 DVNF
E1 3 6 7 8 {GLFF}
R1 3 0 1e9
R2 3 0 1e9
R3 3 6 1e9
E2 6 4 5 0 10
R4 5 0 {RNVF}
R5 5 0 {RNVF}
R6 3 4 1e9
R7 4 0 1e9
G1 1 2 3 4 1e-6
.ends FEMT_INA828
*
.subckt VNSE_IN_INA828 1 2
.param FLW=1
.param NLF=4
.param NVR=4.3
.param GLF={PWR(FLW,0.25)*NLF/1164}
.param RNV={1.184*PWR(NVR,2)}
.model DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
.ends VNSE_IN_INA828
*
.subckt VCCS_EXT_LIM_INA828 VIN+ VIN- IOUT- IOUT+ VP+ VP-
.param Gain = 1
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VIN+,VIN-),V(VP-,VIN-), V(VP+,VIN-))}
.ends VCCS_EXT_LIM_INA828
*
.subckt CLAMP_AMP_HI_INA828 VC+ VC- VIN COM VO+ VO-
.param G=10
GVo+ COM Vo+ Value = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVo- COM Vo- Value = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ends CLAMP_AMP_HI_INA828
*
.subckt VCCS_LIM_3_IN_INA828 VC+ VC- IOUT+ IOUT-
.param Gain = 1
.param Ipos = 1
.param Ineg = -1
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends VCCS_LIM_3_IN_INA828
*
.subckt VCCS_LIM_IQ_INA828 VC+ VC- IOUT+ IOUT-
.param Gain = 1e-3
G1 IOUT+ IOUT- VALUE={IF( (V(VC+,VC-)<=0),0,Gain*V(VC+,VC-) )}
.ends VCCS_LIM_IQ_INA828
*
.subckt CLAMP_AMP_LO_INA828 VC+ VC- VIN COM VO+ VO-
.param G=1
GVo+ COM Vo+ Value = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVo- COM Vo- Value = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ends CLAMP_AMP_LO_INA828
*
.subckt VCCS_LIM_1_INA828 VC+ VC- IOUT+ IOUT-
.param Gain = 1e-4
.param Ipos = .5
.param Ineg = -.5
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends VCCS_LIM_1_INA828
*
.subckt VCCS_LIM_2_IN_INA828 VC+ VC- IOUT+ IOUT-
.param Gain = 0.1234
.param Ipos = 10
.param Ineg = -10
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends VCCS_LIM_2_IN_INA828
*
.subckt OL_SENSE_OUT_INA828 1   2  3  4
GSW+ 1 2 Value = {IF((V(3,1)>10e-3 | V(4,1)>10e-3),1,0)}
.ends OL_SENSE_OUT_INA828
*
.subckt VCCS_LIM_3_OUT_INA828 VC+ VC- IOUT+ IOUT-
.param Gain = 1
.param Ipos = 0.108
.param Ineg = -0.108
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends VCCS_LIM_3_OUT_INA828
*
.subckt VCCS_LIM_4_OUT_INA828 VC+ VC- IOUT+ IOUT-
.param Gain = 1
.param Ipos = 0.216
.param Ineg = -0.216
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends VCCS_LIM_4_OUT_INA828
*
.subckt VCCS_LIM_CLAWp_OUT_INA828 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, .15E-3)
+(11.02, 3.73e-4)
+(12.01, 4.02e-4)
+(13.04, 4.37e-4)
+(14, 4.72e-4)
+(14.99, 5.16e-4)
+(16.02, 5.69e-4)
+(16.49, 6.05e-4)
+(16.99, 6.57e-4)
+(18, 7.9e-4)
.ends VCCS_LIM_CLAWp_OUT_INA828
*
.subckt VCCS_LIM_CLAWn_OUT_INA828 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, .15E-3)
+(10, 2.6e-4)
+(11.08, 2.9e-4)
+(12.01, 3.3e-4)
+(12.52, 3.6e-4)
+(13.01, 4e-4)
+(13.49, 4.88e-4)
+(14.02, 6.68e-4)
+(14.55, 9.96e-4)
+(18, 4e-3)
.ends VCCS_LIM_CLAWn_OUT_INA828
*
.subckt VNSE_OUT_INA828 1 2
.param FLW=1
.param NLF=273
.param NVR=32
.param GLF={PWR(FLW,0.25)*NLF/1164}
.param RNV={1.184*PWR(NVR,2)}
.model DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
.ends VNSE_OUT_INA828
*
.subckt VCCS_LIM_GR_OUT_INA828 VC+ VC- IOUT+ IOUT-
.param Gain = 1
.param Ipos = 1.62
.param Ineg = -1.62
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends VCCS_LIM_GR_OUT_INA828
*
.subckt VCCS_LIM_2_OUT_INA828 VC+ VC- IOUT+ IOUT-
.param Gain =  0.1234
.param Ipos = 0.81
.param Ineg = -0.81
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends VCCS_LIM_2_OUT_INA828
*
.subckt VCCS_LIM_ZO_OUT_INA828 VC+ VC- IOUT+ IOUT-
.param Gain = 11764.7
.param Ipos = 3.6e3
.param Ineg = -3.6e3
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends VCCS_LIM_ZO_OUT_INA828
*
